US08008481B2
A mixture of iron (Aldrich 99.99+%, 13.85 g, 248.0 mmol) and crude 7-bromo-5-nitro-1H-indazole (20.00 g, 82.63 mmol) in glacial acetic acid (100 mL) was heated at about 80° C. in a 2-neck round bottom flask equipped with a mechanical stirrer and a nitrogen line with a bubbler. After about 2.5 hours, MeOH (100 mL) was added, warmed, and filtered hot through Celite®. The Celite® pad was washed with additional MeOH (4×100 mL) and the combined organic layers were concentrated under reduced pressure. The residues were basified to pH ˜7 using aqueous Na2CO3 (2M) and the product was extracted into EtOAc (1 L) over about 16 hours. The layers were separated and the aqueous layer was further extracted with additional EtOAc (3×500 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, decanted, and concentrated. The resulting solid was pre-adsorbed onto silica and purified by silica gel chromatography using heptane/EtOAc (1:1) as the eluent to afford 7-bromo-1H-indazol-5-ylamine (6.92 g, 40%); 1H NMR (DMSO-d6, 400 MHz) 12.92 (br s, 1H), 7.87 (s, 1H), 7.03 (d, J=1.6 Hz, 1H), 6.77 (d, J=1.2 Hz, 1H) 4.96 (br s, 2H); LC-MS (Table 1, Method e) Rt 0.83.

reactant | 7-bromo-5-nitro-1H-indazole | 82.63 mmol, 20.00 g | BrC=1C=C(C=C2C=NNC12)[N+](=O)[O-] | C7H4BrN3O2
reactant | MeOH | 100 mL | CO | CH4O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 248.0 mmol, 13.85 g | [Fe] | Fe
product | 7-bromo-1H-indazol-5-ylamine | 6.92 g, 40% | BrC=1C=C(C=C2C=NNC12)N | C7H6BrN3
